US06503907B2
A mixture of 0.07 g (5 mmol) 5-Bromo-6-fluoro-1H-indole (1, 1-chloro-4-iodobenzene (2.5 g, 10.5 mmol), 250 mg (1.31 mmol) CuI, 80 mg (0.9 mmol) ZnO, and 1.75 g (12.67 mmol) K2CO3 in degassed NMP was stirred at 170° C. during 6 hours in a pressure tube. After cooling to room temperature, the mixture was poured into 50 ml of saturated aqueous NaCl and extracted three times with Et2O. Drying of the combined organic layers with Na2SO4, evaporation of the solvent, and column chromatography on silica gel with CH2Cl2/hexane 1:2 gave 0.98 g (60%) 5-Bromo-1-(4-chloro-phenyl)-6-fluoro-1H-indole as a yellowish-grey solid, MS: 323 (M, 1Cl, 1Br). (Analogously to Jens Perregaard et. al. J. Med. Chem. 1992, 35, 4813-4822.)

reactant | 5-Bromo-6-fluoro-1H-indole | 5 mmol, 0.07 g | BrC=1C=C2C=CNC2=CC1F | C8H5BrFN
reactant | 1-chloro-4-iodobenzene | 10.5 mmol, 2.5 g | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | K2CO3 | 12.67 mmol, 1.75 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaCl | 50 ml | [Na+].[Cl-]
solvent | NMP | CN1CCCC1=O | C5H9NO
catalyst | CuI | 1.31 mmol, 250 mg | [Cu]I
product | 5-Bromo-1-(4-chloro-phenyl)-6-fluoro-1H-indole | 0.98 g, 60% | BrC=1C=C2C=CN(C2=CC1F)C1=CC=C(C=C1)Cl | C14H8BrClFN
